US08133901B2
(R)-6-Methyl-imidazo[2,1-b]thiazole-5-carboxylic acid{1-[5-(3,4-dimethyl-phenyl)-2-methyl-thiazole-4-carbonyl]-piperidin-3-yl}-amide
prepared by reaction of 5-(3,4-dimethyl-phenyl)-2-methyl-thiazole-4-carboxylic acid with (R)-6-methyl-imidazo[2,1-b]-thiazole-5-carboxylic acid-piperidin-3-ylamide.

reactant | 5-(3,4-dimethyl-phenyl)-2-methyl-thiazole-4-carboxylic acid | CC=1C=C(C=CC1C)C1=C(N=C(S1)C)C(=O)O | C13H13NO2S
reactant | (R)-6-methyl-imidazo[2,1-b]-thiazole-5-carboxylic acid-piperidin-3-ylamide | N1C[C@@H](CCC1)NC(=O)C1=C(N=C2SC=CN21)C | C12H16N4OS
product | (R)-6-Methyl-imidazo[2,1-b]thiazole-5-carboxylic acid{1-[5-(3,4-dimethyl-phenyl)-2-methyl-thiazole-4-carbonyl]-piperidin-3-yl}-amide | CC=1C=C(C=CC1C)C1=C(N=C(S1)C)C(=O)N1C[C@@H](CCC1)NC(=O)C1=C(N=C2SC=CN21)C | C25H27N5O2S2
